US06114358
The abovementioned mixture of ethyl 2-formyllevulinate and its diethyl ketal was dissolved in benzene, the catalyst was added, and the resulting solution was refluxed with a Dean-Stark trap for 3-3.5 h until the water was completely removed. The reaction mixture was then distilled under reduced pressure, resulting in 15 g (97 mmol) of ethyl 5-methylfuran-3-carboxylate, boiling point 97° C./15 mm Hg.

reactant | ethyl 2-formyllevulinate | C(=O)C(C(=O)OCC)CC(=O)C | C8H12O4
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl 5-methylfuran-3-carboxylate | 97 mmol, 15 g | CC1=CC(=CO1)C(=O)OCC | C8H10O3
